US09376441B2
Prepared by Suzuki coupling reaction procedure, as previously described for the synthesis of (R)-4-((R)-1-((3-cyclopropyl-6-(4-(1-(oxetan-3-yl)piperidin-4-yl)phenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one:, using instead tert-butyl 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-3,6-diazabicyclo[3.1.1]heptane-6-carboxylate (289.4 mg, 0.72 mmol), and Pd(PPh3)4 (34.8 mg, 0.030 mmol) in DME (3 mL) and 2N Na2CO3 (2 mL). The reaction mixture was sonicated for 30 sec and degassed with nitrogen gas for 30 sec, and heated at 100 C for 1 h. Then it was cooled to room temperature, directly loaded on the pre-packed silica cartridge, and purified by flash chromatography (100% dichloromethane to 25% MeOH in dichloromethane) to give 200.0 mg (59%) of tert-butyl 3-(4-(3-cyclopropyl-4-((R)-1-((R)-5-oxopyrrolidin-3-yl)ethoxy)-3H-imidazo[4,5-c]pyridin-6-yl)phenyl)-3,6-diazabicyclo[3.1.1]heptane-6-carboxylate.

reactant | (R)-4-((R)-1-((3-cyclopropyl-6-(4-(1-(oxetan-3-yl)piperidin-4-yl)phenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | C1(CC1)N1C=NC2=C1C(=NC(=C2)C2=CC=C(C=C2)C2CCN(CC2)C2COC2)O[C@H](C)[C@@H]2CC(NC2)=O | C29H35N5O3
reactant | tert-butyl 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-3,6-diazabicyclo[3.1.1]heptane-6-carboxylate | 0.72 mmol, 289.4 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N1CC2N(C(C1)C2)C(=O)OC(C)(C)C)C | C22H33BN2O4
solvent | DME | 3 mL | COCCOC | C4H10O2
solvent | Na2CO3 | 2N, 2 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.030 mmol, 34.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 3-(4-(3-cyclopropyl-4-((R)-1-((R)-5-oxopyrrolidin-3-yl)ethoxy)-3H-imidazo[4,5-c]pyridin-6-yl)phenyl)-3,6-diazabicyclo[3.1.1]heptane-6-carboxylate | 200.0 mg, 59% | C1(CC1)N1C=NC2=C1C(=NC(=C2)C2=CC=C(C=C2)N2CC1N(C(C2)C1)C(=O)OC(C)(C)C)O[C@H](C)[C@H]1CNC(C1)=O | C31H38N6O4
